US04880808
A mixture of 5.04 parts of 4-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide, 2.9 parts of 2-chloro-N-(5-fluoro-2-methylphenyl)acetamide, 2.1 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 18 hours. After cooling, the reaction mixture was washed with water. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile and 2-propanol. The precipitate was filtered off and the filtrate was evaporated. The residue was dried at 80° C., yielding 5.48 parts (71%) of 2-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide monohydrochloride; mp. 148.2° C. (compound 9).

reactant | 4-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCCN1CC(NCC1)C(=O)N)C1=CC=C(C=C1)F | C22H27F2N3O
reactant | 2-chloro-N-(5-fluoro-2-methylphenyl)acetamide | ClCC(=O)NC1=C(C=CC(=C1)F)C | C9H9ClFNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 2-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide monohydrochloride | 71% | Cl.NC(=O)C1N(CCN(C1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=CC(=C1)F)C | InChI=1S/C31H35F3N4O2.ClH/c1-21-5-10-26(34)18-28(21)36-30(39)20-38-17-16-37(19-29(38)31(35)40)15-3-2-4-27(22-6-11-24(32)12-7-22)23-8-13-25(33)14-9-23;/h5-14,18,27,29H,2-4,15-17,19-20H2,1H3,(H2,35,40)(H,36,39);1H
